US08937092B2
10% Palladium on carbon is added to a solution methyl 2-(3-fluoro-4-nitrophenyl)propanoate in methanol and the mixture is charged with H2 (g). After stirring the reaction mixture for 6 h, the mixture is filtered using celite packed filter and purified by column chromatography to obtain methyl 2-(4-amino-3-fluorophenyl)propanoate.

reactant | methyl 2-(3-fluoro-4-nitrophenyl)propanoate | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OC)C | C10H10FNO4
catalyst | Palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 2-(4-amino-3-fluorophenyl)propanoate | NC1=C(C=C(C=C1)C(C(=O)OC)C)F | C10H12FNO2
